US05244725
This example illustrates the preparation of a methylene acceptor of this invention which is the addition product of resorcinol and the diglycidyl ether of bisphenol A. This addition product was prepared in a 1-liter reactor equipped with an agitator, thermometer and reflux condenser. The reactor was charged with about 55.1 g. (gram) resorcinol, 250 ml (milliliter) toluene and 0.5 g. triphenylphosphine. The charge was stirred, heated to reflux at about 113° C. (centigrade) and about 90.4 g. of diglycidyl ether of bisphenol A (Dow epoxy resin DER-331) was added dropwise in about one hour. The solution was refluxed for about one hour and devolatilized to about 114° C. at reduced pressure to give a light tan resorcinol ether compound of this invention (RE1) having a 68° C. softening point, and having a 1.6 wt. % (percent) residual oxirane oxygen.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | diglycidyl ether of bisphenol A | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | resorcinol ether | C1(O)=CC(O)=CC=C1.CCOCC | InChI=1S/C6H6O2.C4H10O/c7-5-2-1-3-6(8)4-5;1-3-5-4-2/h1-4,7-8H;3-4H2,1-2H3
